US05168110
132 parts by wt. (1 mole) hydroxypivalic methyl ester, 48 parts by wt. (1.2 mole) sodium hydroxide solution and 250 ml water were heated for 1 hour at 100° C. in a 0.5-liter three-neck flask equipped with stirrer, thermometer and reflux cooler. The temperature was reduced to 50° C. To the mixture were added 276 parts by wt. (3 mole) epichlorohydrin (ECH) and 50 parts by wt. Dowex (Fluka AG, 1×8). The water was removed azeotropically at a temperature of 50° C. and at reduced pressure (200 mbar), the ECH being supplied back to the reaction mixture. The total reaction time was 3 hours. The salt formed was filtered off and washed twice with 20 ml ECH The excess ECH was removed by means of rotary film evaporation. Thus 167 parts by wt. hydroxypivalic glycidyl ester were obtained in the form of a light yellow liquid with an epoxide content of 5.5 meq/g and a hydroxy content of 307 mg KOH/g.

reactant | hydroxypivalic methyl ester | 1 mole | COC(C(CO)(C)C)=O | C6H12O3
reactant | sodium hydroxide | 1.2 mole | [OH-].[Na+]
reactant | epichlorohydrin | 3 mole | C(Cl)C1CO1 | C3H5ClO
reactant | Fluka AG | C[Si](C)(C)O[Si](C)(C)C | C6H18OSi2
solvent | water | 250 ml | O | H2O
product | hydroxypivalic glycidyl ester | C(C1CO1)OC(C(CO)(C)C)=O | C8H14O4
